US07253205B2
(RS)-α-Methyl-α-(2-propenyl)-3,5-bis(trifluoromethyl)benzeneacetic Acid
n-Butyllithium (2.5M solution in hexanes, 61.0 mL, 153 mmol) was added slowly to a stirred, cooled (−78° C.) solution of (RS)-α-methyl-3,5-bis(trifluoromethyl)benzeneacetic acid (Description 7, 19.0 g, 66.4 mmol) in tetrahydrofuran (400 mL) and the mixture was stirred at −78° C. for 2 hours. Further n-butyllithium (2.5M solution in hexanes, 8.0 mL, 20 mmol) was added slowly and the mixture was stirred at −78° C. for 20 minutes. Further n-butyllithium (2.5M solution in hexanes, 8.0 mL, 20 mmol) was added slowly and the mixture was stirred at −78° C. for 20 minutes. 3-Bromo-1-propene (8.62 mL, 12.05 g, 100 mmol) was added slowly and the mixture was stirred at −78° C. for 30 minutes, then at room temperature for 1 hour. The mixture was poured into aqueous sodium bisulfite (10%, 500 mL) and extracted with ethyl acetate (2×500 mL). The combined organic fractions were washed with brine, dried (Na2SO4) and the solvent was evaporated under reduced pressure. The residue was triturated with hexane and the solid was collected and dried iii vacuo to give the title compound as a colourless solid (10.59 g, 49%). 1H NMR (400 MHz, CDCl3) δ 7.82 (2H, s), 7.81 (1H, s), 5.57 (1H, m), 5.13 (1H, s), 5.10 (1H, m), 2.86 (1H, m), 2.73 (1H, m), and 1.69 (3H, s).

reactant | n-Butyllithium | 153 mmol, 2.5M, 61.0 mL | C(CCC)[Li]
reactant | (RS)-α-methyl-3,5-bis(trifluoromethyl)benzeneacetic acid | 66.4 mmol, 19.0 g | CC(C(=O)O)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C11H8F6O2
reactant | n-butyllithium | 20 mmol, 2.5M, 8.0 mL | C(CCC)[Li]
reactant | n-butyllithium | 20 mmol, 2.5M, 8.0 mL | C(CCC)[Li]
reactant | 3-Bromo-1-propene | 100 mmol, 8.62 mL, 12.05 g | BrCC=C | C3H5Br
reactant | sodium bisulfite | 500 mL | S([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 400 mL | O1CCCC1 | C4H8O
product | (RS)-α-Methyl-α-(2-propenyl)-3,5-bis(trifluoromethyl)benzeneacetic Acid | 10.59 g, 49% | CC(C(=O)O)(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)CC=C | C14H12F6O2
